US05556864
3(a) N,N-Dimethyl-2-[2-(4-phenylbutyl)phenoxy]ethylamine
Following a procedure similar to that described in Example 2, 226 mg of 2-(4-phenylbutyl)phenol (prepared as described in Preparation 3), 96 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) and 173 mg of dimethylaminoethyl chloride hydrochloride were reacted in dimethylacetamide. The crude product extracted was purified by column chromatography through silica gel, using a 20:1 by volume mixture of methylene chloride and methanol as the eluent, to give 230 mg (yield 77%) of the title compound as an oil.

reactant | 2-(4-phenylbutyl)phenol | 226 mg | C1(=CC=CC=C1)CCCCC1=C(C=CC=C1)O | C16H18O
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | dimethylaminoethyl chloride hydrochloride | 173 mg | Cl.CN(C)CCCl
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | N,N-Dimethyl-2-[2-(4-phenylbutyl)phenoxy]ethylamine | 230 mg, yield 77% | CN(C)CCOC1=C(C=CC=C1)CCCCC1=CC=CC=C1 | C20H27NO
